US07417064B2
(2S,3S)-3-(3,5-Dichloro-phenoxy)-1-methylamino-hexan-2-ol hydrochloride
Add methyl amine (5 mL, 40% wt in water) to a solution of (2S, 3S)-toluene-4-sulfonic acid 3-(3,5-dichloro-phenoxy)-2-hydroxy-hexyl ester (306 mg, 0.706 mmol) in 1,4-dioxane (10 mL) in a heavy walled screw top sealed tube, seal the tube, and heat at 50° C. overnight. The mixture is cooled and concentrated under reduced pressure. Purification by medium pressure liquid chromatography eluting with 0-10% of 2N NH3/MeOH in dichloromethane is followed by HCl salt formation by dissolving in methanol (10 mL), adding solid ammonium chloride (32 mg, 0.598 mmol) and sonicating for 15 minutes. The mixture is concentrated under reduced pressure and the residue is dissolved in water, frozen at −78° C., and freeze dried to afford the title compound as a colorless solid (170 mg, 73%): δH (CD3OD, 400 MHz): 0.94 (dd, 3H, J=7, 7 Hz), 1.31-1.55 (m, 2H), 1.60-1.79 (m, 2H), 2.72 (s, 3H), 3.11 (dd, 1H, J=13, 10 Hz), 3.22 (dd, 1H, J=13, 3 Hz), 3.97-4.05 (m 1H), 4.37-4.45 (m, 1H), 7.00-7.04 (m, 3H). Exact Mass cacld. for C13H19O2NCl2 (M+ free base): 292.0871; found: 292.0879.

reactant | methyl amine | 5 mL | CN | CH5N
reactant | (2S, 3S)-toluene-4-sulfonic acid 3-(3,5-dichloro-phenoxy)-2-hydroxy-hexyl ester | 0.706 mmol, 306 mg | ClC=1C=C(O[C@H]([C@H](COS(=O)(=O)C2=CC=C(C=C2)C)O)CCC)C=C(C1)Cl | C19H22Cl2O5S
reactant | ammonium chloride | 0.598 mmol, 32 mg | [Cl-].[NH4+]
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | (2S,3S)-3-(3,5-Dichloro-phenoxy)-1-methylamino-hexan-2-ol hydrochloride | 170 mg, 73% | Cl.ClC=1C=C(O[C@H]([C@H](CNC)O)CCC)C=C(C1)Cl | InChI=1S/C13H19Cl2NO2.ClH/c1-3-4-13(12(17)8-16-2)18-11-6-9(14)5-10(15)7-11;/h5-7,12-13,16-17H,3-4,8H2,1-2H3;1H/t12-,13-;/m0./s1
